US06372777B1
Preparation of 1-(3-Methanesulfonylphenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
3-Methylsulfonylaniline hydrochloride (5.8 mmol, 1.2 g), 2-benzoyl-4-oxo-pentanoic acid ethyl ester (5.8 mmol, 144 g), triethylamine (5.8 mmol, 0.61 g), and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. The resulting oil was resuspended in chloroform, then washed with water, 5% sodium bicarbonate, and brine. The organic layer was dried over NaSO44, then the solids were separated and solvents removed under vacuum. The crude material was purified over silica to yield the named product (m.p. 131° C.-133° C.).

reactant | 3-Methylsulfonylaniline hydrochloride | 5.8 mmol, 1.2 g | Cl.CS(=O)(=O)C=1C=C(N)C=CC1
reactant | 2-benzoyl-4-oxo-pentanoic acid ethyl ester | 5.8 mmol, 144 g | C(C)OC(C(CC(C)=O)C(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | triethylamine | 5.8 mmol, 0.61 g | C(C)N(CC)CC | C6H15N
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-Methanesulfonylphenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C)C1=CC(=CC=C1)S(=O)(=O)C)C1=CC=CC=C1 | C21H21NO4S
